US08012976B2
5-Fluoro-9-(4-fluorophenyl)-8-(1-methyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 7-fluoro-3-(4-fluorophenyl)-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (200 mg, 0.486 mmol) in 85% hydrazine monohydrate (1 mL) and methanol (5 mL) was stirred at room temperature for 4 h. The resulting mixture was filtered and washed by water (20 mL) and methanol (5 mL) to obtain a white solid, which was then dried in vacuum at 50° C. to obtain the title compound (25.4 mg, yield 14%). LC-MS (ESI) m/z: 380(M+1)+; 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 3.56 (s, 3H), 4.52-4.53 (d, J=6.8 Hz, 1H), 5.02-5.04 (m, 1H), 6.73 (s, 1H), 6.82-6.85 (m, 1H), 6.99-7.09 (m, 4H), 7.18-7.22 (m, 2H), 7.69 (s, 1H), 12.34 (s, 1H).

reactant | ethyl 7-fluoro-3-(4-fluorophenyl)-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.486 mmol, 200 mg | FC=1C=C(C=2C(C(C(NC2C1)C=1N(C=CN1)C)C1=CC=C(C=C1)F)=O)C(=O)OCC | C22H19F2N3O3
reactant | hydrazine monohydrate | 1 mL | O.NN
solvent | methanol | 5 mL | CO | CH4O
product | 5-Fluoro-9-(4-fluorophenyl)-8-(1-methyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 25.4 mg, yield 14% | FC=1C=C2C=3C(=NNC(C3C1)=O)C(C(N2)C=2N(C=CN2)C)C2=CC=C(C=C2)F | C20H15F2N5O
